US06090813
A solution of 4-cyanobenzoyl chloride (298 mg) in methylene chloride (10 ml) was added to a stirred mixture of 1-[1(4-pyrimidinyl) piperidin-4-ylcarbonyl]piperazine (412.5 mg) and triethylamine (0.28 ml) in methylene chloride (15 ml) and the resultant mixture was stirred at ambient temperature for 2 hours. The mixture was partitioned between methylene chloride and water. The organic phase was washed with water, dried (Na2SO4) and evaporated. The residue was purified by column chromatography using 0.5% methanol in methylene chloride. Recrystallisation from ethyl acetate/hexane gave, as a solid 1-(4-cyanobenzoyl)-4-[1-(4-pyrimidinyl)piperidin-4-ylcarbonyl] piperazine (280 mg): mpt 192-193° C.;

reactant | 4-cyanobenzoyl chloride | 298 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 1-[1(4-pyrimidinyl) piperidin-4-ylcarbonyl]piperazine | 412.5 mg | N1=CN=C(C=C1)N1CCC(CC1)C(=O)N1CCNCC1 | C14H21N5O
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-cyanobenzoyl)-4-[1-(4-pyrimidinyl)piperidin-4-ylcarbonyl] piperazine | 280 mg | C(#N)C1=CC=C(C(=O)N2CCN(CC2)C(=O)C2CCN(CC2)C2=NC=NC=C2)C=C1 | C22H24N6O2
